US07968552B2
Chlorocarbonyl isocyanate (0.14 ml) was dropwise added, under cooling on an ice-methanol bath, to a THF (15 ml) solution of 4-({[3′-({4-[(hydroxyamino)methyl]phenoxy}methyl)-2,6-dimethylbiphenyl-4-yl]oxy}methyl)tetrahydro-2H-thiopyran-4-ol (792 mg), followed by temperature rising to room temperature and subsequent 1 hour of stirring. A 1 M hydrochloric acid (40 ml) was added to the reaction mixture, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was evaporated under a reduced pressure. By purifying the resulting residue by silica gel column chromatography (chloroform-methanol), a colorless foamy substance (777 mg) was obtained. Sodium methoxide (50 mg) was added to a methanol (10 ml) solution of the resulting foamy substance (116 mg), followed by stirring at room temperature for 30 minutes. Thereafter, sodium methoxide (200 mg) was added to the reaction mixture, followed by stirring at room temperature for 1 hour. The reaction mixture was warmed up to 60° C., stirred for 2 hours and then spontaneously cooled to room temperature. 1 M Hydrochloric acid (10 ml) and water (20 ml) were added to the reaction mixture, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in methanol (5 ml)-THF (10 ml), and a 1 M sodium hydroxide aqueous solution (0.20 ml) was added, followed by concentration under a reduced pressure. By washing the resulting residue with isopropanol-diethyl ether, sodium 2-[4-({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)benzyl]-3,5-dioxo-1,2,4-oxadiazolidin-4-ide (80 mg) was obtained as a pale yellow solid.

reactant | Chlorocarbonyl isocyanate | 0.14 ml | ClC(=O)N=C=O | C2ClNO2
reactant | 4-({[3′-({4-[(hydroxyamino)methyl]phenoxy}methyl)-2,6-dimethylbiphenyl-4-yl]oxy}methyl)tetrahydro-2H-thiopyran-4-ol | 792 mg | ONCC1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCC2(CCSCC2)O)C)C=C1 | C28H33NO4S
reactant | hydrochloric acid | 1 M, 40 ml | Cl | ClH
reactant | Sodium methoxide | 50 mg | C[O-].[Na+]
reactant | sodium methoxide | 200 mg | C[O-].[Na+]
reactant | Hydrochloric acid | 1 M, 10 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | sodium 2-[4-({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)benzyl]-3,5-dioxo-1,2,4-oxadiazolidin-4-ide | 80 mg | OC1(CCSCC1)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(CN2OC([N-]C2=O)=O)C=C1)C.[Na+] | InChI=1S/C30H32N2O6S.Na/c1-20-14-26(37-19-30(35)10-12-39-13-11-30)15-21(2)27(20)24-5-3-4-23(16-24)18-36-25-8-6-22(7-9-25)17-32-28(33)31-29(34)38-32;/h3-9,14-16,35H,10-13,17-19H2,1-2H3,(H,31,33,34);/q;+1/p-1
